US08053457B2
3-(2-Aminomethyl-5-chloro-phenoxy)-propan-1-ol
The title compound is synthesized by coupling followed by reduction of 4-chloro-2-fluoro-benzonitrile and 1,3-propane-diol analogously to the preparation of Intermediate 113.1 as a colorless solid; ES-MS: M+=216.1; HPLC: AtRet=2.23 min.

reactant | 4-chloro-2-fluoro-benzonitrile | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
reactant | 1,3-propane-diol | C(CCO)O | C3H8O2
product | 3-(2-Aminomethyl-5-chloro-phenoxy)-propan-1-ol | NCC1=C(OCCCO)C=C(C=C1)Cl | C10H14ClNO2
